US05362879
A solution of methyl 3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]benzeneacetate (12.00 g, 43 mmol) in dry THF (40 mL) was added dropwise to a solution of LDA (prepared from nBuLi (20.70 mL of a 2.5 M solution, 3.32 g, 51 mmol) and iPr2NH (4.79 g, 6.60 mL, 47 mmol)) in THF (300 mL) maintained at about -78° C. under an atmosphere of N2. After about 15 minutes, 2-bromomethyl-4,5-diphenyloxazole (14.86 g, 47 mmol) in THF (20 mL) was added dropwise. The mixture was stirred for about 30 minutes at about -78° C., poured onto saturated NH4Cl solution and extracted with CH2Cl2. The combined extracts were dried over Na2SO4, concentrated and the residual oil chromatographed on a column of silica gel. Elution with a mixture of hexanes and Et2O (9:1) gave methyl α -[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]-4,5-diphenyl-2-oxazolepropanoate (12.40 g, 56%) 1H NMR (CDCl3) δ0.18 (6H, s, Si(CH3)2), 0.98 (9H, s, (CH3)3C), 3.23 and 3.65 (2H, d of ABq, J=16 Hz, J'=8 Hz, CH2 -oxazole), 3.72 (3H, s, CO2CHH3), 4.29 (1H, dd, J=8 Hz, CHCO2CH3), 6.77 (1H, d, J=9 Hz, aromatic H), 6.88 (1H, s, aromatic H), 6.98 (1H, d, J=9 Hz, aromatic H), 7.20 (1H, t, J=8Hz, aromatic H), 7.25 to 7.45 (6H, m, aromatic H), 7.45 to 7.70 (4H, m, aromatic H).

reactant | methyl 3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]benzeneacetate | 43 mmol, 12.00 g | CC(C)(C)[Si](OC=1C=C(C=CC1)CC(=O)OC)(C)C | C15H24O3Si
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | nBuLi | [Li]CCCC
reactant | iPr2NH | 47 mmol, 6.60 mL, 4.79 g | N(C(C)C)C(C)C | C6H15N
reactant | 2-bromomethyl-4,5-diphenyloxazole | 47 mmol, 14.86 g | BrCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H12BrNO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | methyl α -[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]-4,5-diphenyl-2-oxazolepropanoate | 12.40 g, 56% | CC(C)(C)[Si](OC=1C=C(C=CC1)C(C(=O)OC)CC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C31H35NO4Si
